US05153335
4-Chlorophthalic anhydride (30 g, 160 mmol), and nitrobenzene (Aldrich, 30 g, containing 500 ppm water) were heated to reflux. Dry potassium carbonate (1.32 g, 9.6 mmol) was added and the mixture heated for 30 minutes. Tetraphenyl phosphonium bromide (0.36 g, 0.9 mmol) and 4-chlorobenzoic acid (0.06 g, 0.4 mmol) were added followed by addition of potassium carbonate (11.4 g, 82.2 mmol). The reaction was heated for about 9 hours and then was diluted with nitrobenzene (30 g) and filtered. The 4,4'-oxydiphthalic anhydride was allowed to crystallize, was washed with solvent, and dried in an air circulating oven at 120° C. to give crude 4,4'-oxydiphthalic anhydride, 10.0 g.

reactant | 4-Chlorophthalic anhydride | 160 mmol, 30 g | ClC=1C=C2C(C(=O)OC2=O)=CC1 | C8H3ClO3
reactant | potassium carbonate | 9.6 mmol, 1.32 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chlorobenzoic acid | 0.4 mmol, 0.06 g | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
reactant | potassium carbonate | 82.2 mmol, 11.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | nitrobenzene | 30 g | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | nitrobenzene | 30 g | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
catalyst | Tetraphenyl phosphonium bromide | 0.9 mmol, 0.36 g | [Br-].C1(=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 4,4'-oxydiphthalic anhydride | C1=CC2=C(C=C1OC3=CC4=C(C=C3)C(=O)OC4=O)C(=O)OC2=O | C16H6O7
